US08017792B2
Then, 2.6 M n-butylithium hexane solution (1.6 mL) was added to a mixture of 1-bromo-4-ethoxy-2-methylbenzene (0.94 g, 4.37 mmol) and tetrahydrofuran (12 mL) at −78° C. After stirred for one hour, the mixture was added with a tetrahydrofuran (10 mL) solution of 2,3,4,6-tetra-O-benzyl-1-C-(4-chloro-3-formylphenyl)-5-thio-D-glucopyranose (1.52 g, 2.18 mmol), and, further stirred for 20 minutes, and the reaction mixture was warmed to room temperature. After the reaction mixture was added with a saturated ammonium chloride aqueous solution and extracted with ethyl acetate, the organic phase was washed with brine and dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain 2,3,4,6-tetra-O-benzyl-1-C-{4-chloro-3-[(4-ethoxy-2-methylphenyl)(hydroxy)methyl]phenyl}-5-thio-D-glucopyranose (1.72 g, 95%) as a yellow amorphous diastereomer mixture.

reactant | hexane | 2.6 M, 1.6 mL | CCCCCC | C6H14
reactant | 1-bromo-4-ethoxy-2-methylbenzene | 4.37 mmol, 0.94 g | BrC1=C(C=C(C=C1)OCC)C | C9H11BrO
reactant | 2,3,4,6-tetra-O-benzyl-1-C-(4-chloro-3-formylphenyl)-5-thio-D-glucopyranose | 2.18 mmol, 1.52 g | C(C1=CC=CC=C1)O[C@H]1C(O)(S[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=C(C=C1)Cl)C=O | C41H39ClO6S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 2,3,4,6-tetra-O-benzyl-1-C-{4-chloro-3-[(4-ethoxy-2-methylphenyl)(hydroxy)methyl]phenyl}-5-thio-D-glucopyranose | 1.72 g, 95% | C(C1=CC=CC=C1)O[C@H]1C(O)(S[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=C(C=C1)Cl)C(O)C1=C(C=C(C=C1)OCC)C | C50H51ClO7S
